US08633200B2
To a stirred solution of methyl 2-(2-(3-chlorophenyl)-7-(4-fluorophenyl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-oxoacetate (0.083 g, 0.196 mmol) in toluene (5 mL) was added 1M (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole/toluene (0.039 ml, 0.039 mmol) and cooled to −35° C. To this was added dropwise 1M catecholborane/THF (0.294 ml, 0.294 mmol) over 10 min and stirred for additional 20 min. Then, the reaction was slowly warmed to −15 C over 30 min, diluted with EtOAc (10 ml) and quenched with sat. Na2CO3 (5 mL). The resulting mixture was vigorously stirred for 30 min, aq. larer removed and organic layer washed with sat. Na2CO3 (2×5 mL), dried (Na2SO4), filtered, concentrated to yellow residue which was purified by prep-HPLC to afford (S)-methyl 2-(2-(3-chlorophenyl)-7-(4-fluorophenyl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate (0.08 g, 0.184 mmol, 94% yield) as solid. 1H NMR (500 MHz, CDCl3) δ: 7.82 (s, 1H), 7.75-7.68 (m, 1H), 7.68-7.58 (m, 2H), 7.34-7.24 (m, 4H), 6.88 (s, 1H), 5.16 (s, 1H), 3.78 (s, 3H), 3.69-3.34 (br.s., 1H), 2.58 (s, 3H). LCMS (M+H) calcd for C22H18ClFN3O3: 426.1. found: 426.2.

reactant | methyl 2-(2-(3-chlorophenyl)-7-(4-fluorophenyl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-oxoacetate | 0.196 mmol, 0.083 g | ClC=1C=C(C=CC1)C1=NN2C(N=C(C(=C2C2=CC=C(C=C2)F)C(C(=O)OC)=O)C)=C1 | C22H15ClFN3O3
reactant | (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole toluene | 0.039 mmol, 1M, 0.039 ml | CB1OC([C@@H]2N1CCC2)(C2=CC=CC=C2)C2=CC=CC=C2.C1(=CC=CC=C1)C
reactant | catecholborane THF | 0.294 mmol, 1M, 0.294 ml | [B]1OC2=CC=CC=C2O1.C1CCOC1
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
product | (S)-methyl 2-(2-(3-chlorophenyl)-7-(4-fluorophenyl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate | 0.184 mmol, 0.08 g, 94% yield | ClC=1C=C(C=CC1)C1=NN2C(N=C(C(=C2C2=CC=C(C=C2)F)[C@@H](C(=O)OC)O)C)=C1 | C22H17ClFN3O3
